US07528147B2
N-(2,4-Dimethoxybenzyl)-N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]benzenesulfonamide is prepared as described in Example 211b starting with 0.80 g of (2,4-dimethoxybenzyl)[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]amine and 0.110 g of benzenesulfonyl chloride instead of the 4-(trifluoromethoxy)benzenesulfonyl chloride used in Example 211b. 0.060 g of N-(2,4-dimethoxybenzyl)-N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]benzenesulfonamide is obtained, the characteristics of which are as follows:

reactant | (2,4-dimethoxybenzyl)[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]amine | 0.80 g | COC1=C(CNCC2=C3C(=NC=C2)N(C(=C3)C3=CN(C2=CC(=C(C=C32)OC)OC)C)S(=O)(=O)C3=CC=C(C=C3)C)C=CC(=C1)OC | C35H36N4O6S
reactant | benzenesulfonyl chloride | 0.110 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-(2,4-dimethoxybenzyl)-N-[2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]benzenesulfonamide | 0.060 g | COC1=C(CN(S(=O)(=O)C2=CC=CC=C2)CC2=C3C(=NC=C2)N(C(=C3)C3=CN(C2=CC(=C(C=C32)OC)OC)C)S(=O)(=O)C3=CC=C(C=C3)C)C=CC(=C1)OC | C41H40N4O8S2
